US09193719B2
Ethyl isobutyrimidate hydrochloride (1.8 g, 11.9 mmol) was suspended in hexanes (29.7 mL) and cooled to 0° C. 2,4,6-Collidine (4.1 mL, 30.9 mmol) and ethyl chloroformate (1.9 g, 17.8 mmol) were sequentially added and the mixture was allowed to warm to RT and stirred for 12 h. Organic solvent was removed in vacuo. The residue was suspended in EtOAc (50 mL) and solids were removed by filtration through a pad of diatomaceous earth. The filter cake was washed with EtOAc (3×10 mL) and the combined filtrates were concentrated in vacuo to afford ethyl N-ethoxycarbonylisobutyrimidate (2.2 g, 99%) as a yellow amorphous solid. 1H NMR (400 MHz, DMSO-d6): δ 4.09 (q, J=7.1 Hz, 2H), 4.03 (q, J=7.1 Hz, 2H), 2.65-2.64 (m, 1H), 1.20 (t, J=7.1 Hz, 3H), 1.19 (t, J=7.1 Hz, 3H), 1.07 (d, J=6.8 Hz, 6H).

reactant | Ethyl isobutyrimidate hydrochloride | 11.9 mmol, 1.8 g | Cl.C(C(C)C)(OCC)=N
reactant | 2,4,6-Collidine | 30.9 mmol, 4.1 mL | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | ethyl chloroformate | 17.8 mmol, 1.9 g | ClC(=O)OCC | C3H5ClO2
product | ethyl N-ethoxycarbonylisobutyrimidate | 2.2 g, 99% | C(C)OC(=O)N=C(C(C)C)OCC | C9H17NO3
